Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
infected, gangrenous right foot without dopplerable ___ or DP
pulses. 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a ___
___ female with insulin-dependent type 2
diabetes, dementia and peripheral vascular disease, who presents
with worsening right foot erythema and pain. Over a month ago,
her daughter noticed a scratch on her right foot when visiting
her at ___. She does not ambulate as
she is wheelchair-bound. Over time, the scratch progressively
worsened to erythema and pain. Per her daughter's report, the
right foot continued to be placed into shoes without dressings,
and no medical attention was sought. Per the daughter, the
patient's foot has appeared increasingly "black" over the past 3
weeks. The pain has become so severe that Mrs. ___ has
decreased her PO intake for the past week, with very limited
intake the past three days. Her daughter states that Mrs.
___ blood glucose has increased to the 250s during this
time due to pain. She started a course of oral cephalosporin
antibiotics earlier this week, along with Tylenol for pain
control. 

She denies pain in the contralateral limb or anywhere else on 
her
body. She has no dopplerable signals in the RLE ___, she does
have palpable popliteal and femoral pulses bilaterally. The 
right
foot appears with gangrene of the ___ toes extending to the
plantar surface, and erythema throughout the dorsum of the foot.
No crepitus was palpated. 

 
Past Medical History:
PAST MEDICAL HISTORY: Insulin-dependent type 2 diabetes
Peripheral vascular disease
Dementia
 
Social History:
Ambulation Status: Wheelchair. 
Preadmission living status: LTC/SNF. Never smoker
 
Physical Exam:
Admission physical exam:
Vital Signs: Temp: 98.5 RR: 16 Pulse: 86 BP: 113/64  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound,
No hepatosplenomegally, No hernia, No AAA. 
Extremities: Abnormal: RLE gangrene and erythema. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RLE Femoral: P. Popiteal: P. DP: N. ___: N. 
LLE Femoral: P. Popiteal: P. DP: P. ___: D. 

Discharge Physical exam: 
97.7 118/60 82 16 97Ra  
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses
Extremities: Abnormal: RLE gangrene and erythema. 
DESCRIPTION OF WOUND: 
Side: Right. - Cool right foot, similar to left
- Gangrenous right ___ toe tip, ___ and ___ toes with 
surrounding
erythema over entire dorsum of foot
- Grey/blue gangrenous appearance of digits ___ MCP region on
plantar aspect of right foot
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RLE Femoral: P. Popiteal: P. DP: N. ___: N. 
LLE Femoral: P. Popiteal: P. DP: P. ___: D. 

 
Pertinent Results:
Admission labs: 

___ 12:12PM   WBC-20.2* RBC-4.18 HGB-9.7* HCT-32.1* MCV-77* 
MCH-23.2* MCHC-30.2* RDW-15.8* RDWSD-43.5
___ 12:12PM   GLUCOSE-323* UREA N-35* CREAT-1.1 SODIUM-146* 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-22 ANION GAP-21*
___ 05:22PM   LACTATE-2.9*
___ 05:25PM   ___ PTT-30.6 ___

Discharge labs:

___ 06:00AM   ___ PTT-37.4* ___
___ 06:00AM   WBC-19.4* RBC-4.03 HGB-9.4* HCT-30.3* MCV-75* 
MCH-23.3* MCHC-31.0* RDW-15.5 RDWSD-42.5
___ 06:00AM   WBC-19.4* RBC-4.03 HGB-9.4* HCT-30.3* MCV-75* 
MCH-23.3* MCHC-31.0* RDW-15.5 RDWSD-42.5
___ 06:00AM   GLUCOSE-200* UREA N-24* CREAT-0.9 SODIUM-147* 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-23 ANION GAP-21*
 
Brief Hospital Course:
___ is a ___ with infected, gangrenous right foot 
without Dopplerable ___ or DP pulses who was admitted to the ___ 
___ on ___ for for possible 
surgical or endovascular intervention. She was started on broad 
spectrum antibiotics and a heparin drip. A CTA was performed 
which showed the following:

1. Extensive atherosclerotic disease throughout the aorta.  
Upper portion of 
the aortic arch was excluded from the field of view.  At the 
superior edges of 
the study is a partially visualized 0.8 cm rounded filling 
defect within the 
aortic arch concerning for possible intraluminal thrombus. 
2. In the right lower extremity, there is complete occlusion of 
the right 
superficial femoral artery the level of its origin and extending 
distally.  
Scattered atherosclerotic calcifications limit evaluation of 
flow in the lower 
leg and within this limitation, there is no definite flow in the 
anterior and 
posterior tibial arteries.  Possible reconstitution of distal 
right peroneal 
artery. 
3. In the left lower extremity, there is complete occlusion of 
the left 
anterior tibial artery.  Dense calcifications throughout the 
left posterior 
tibial and peroneal artery limits evaluation and are without 
definite flow. 
4. There is severe stenosis of the SMA origin, and right renal 
artery origin. 
5. There is an oblique distal right fibular fracture. 
6. Soft tissue gas with presumed erosions are noted in the right 
third and 
fourth toes, plain radiographs can be obtained for further 
evaluation if 
clinically warranted. 

On ___ the patient's imaging was reviewed by the vascular 
surgery team and it was determined that she would not be a 
candidate for surgical or endovascular interventions. As a 
result of this inability to gain source control, the patient's 
antibiotics were determined to futile and were discontinued. The 
plan was then discussed amongst the vascular team as well as the 
patient's daughter, and it was determined that the patient would 
be discharged to ___ nursing facility on ___. At the 
time of discharge, the patient's vital signs were stable.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Senna 8.6 mg PO QHS:PRN constipation 
6. Acetaminophen 650 mg PO BID 
7. Docusate Sodium 100 mg PO BID 
8. MetFORMIN (Glucophage) 500 mg PO BID 
9. glargine 8 Units Bedtime
Insulin SC Sliding Scale using aspart Insulin
10. Cephalexin 500 mg PO Q6H 
11. GuaiFENesin 10 mL PO Q4H:PRN cough 
12. Milk of Magnesia 30 mL PO DAILY constipation 

 
Discharge Medications:
1.  Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  glargine 8 Units Bedtime
Insulin SC Sliding Scale using aspart Insulin 
3.  Acetaminophen 650 mg PO BID  
4.  amLODIPine 10 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  GuaiFENesin 10 mL PO Q4H:PRN cough  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  Levothyroxine Sodium 125 mcg PO DAILY  
9.  MetFORMIN (Glucophage) 500 mg PO BID  
10.  Milk of Magnesia 30 mL PO DAILY constipation  
11.  Multivitamins 1 TAB PO DAILY  
12.  Senna 8.6 mg PO QHS:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
gangrene of R ___ toes and aortic arch thrombus

 
Discharge Condition:
Awake 
wheelchair bound

 
Discharge Instructions:
Dear ___,
You were admitted to ___ ___ for 
evaluation of your foot wound. After further discussion among 
your surgery team, it was determined that the best course would 
be to return to rehab on xarelto.

 
Followup Instructions:
___